* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 Q2N3904
R_R1         i $N_0004  150  
C_C1         $N_0004 $N_0001  47uF  
C_C2         0 $N_0003  47uF  
C_C3         o $N_0002  47uF  
R_R2         $N_0001 $N_0005  57.3k  
R_R3         $N_0002 $N_0005  3.3k  
V_V2         $N_0005 0 10v
R_R4         0 $N_0001  22k  
R_RE         0 $N_0003  2.2k  
R_RL         0 o  3.3k  
V_V1         i 0 DC 0V AC 1mv 
